US07875639B2
5,6-dihydro-4H-cyclopenta[d]thiazol-2-amine hydrochloride
A mixture of 2-chlorocyclopentanone (5.00 g, 39.5 mmol) and thiourea (3.00 g, 39.5 mmol) was heated at 80° C. for 3-4 minutes. After cooling to room temperature, the mixture was triturated with ethanol and the solid was collected by filtration to afford the title compound. MS (ESI) m/z 141 (M+H)+.

reactant | 2-chlorocyclopentanone | 39.5 mmol, 5.00 g | ClC1C(CCC1)=O | C5H7ClO
reactant | thiourea | 39.5 mmol, 3.00 g | NC(=S)N | CH4N2S
product | 5,6-dihydro-4H-cyclopenta[d]thiazol-2-amine hydrochloride | Cl.S1C(=NC2=C1CCC2)N | InChI=1S/C6H8N2S.ClH/c7-6-8-4-2-1-3-5(4)9-6;/h1-3H2,(H2,7,8);1H
